US07323475B2
d) 4-Hydroxy-1-phenoxy-isoquinoline-3-carboxylic acid butyl ester
A mixture of 1.399 g of 1-Chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester (5 mmol) and 2.86 g of phenol was heated at 145° C. to 150° C. for 24 h. After cooling to ambient temperature the mixture was suspended in 50 ml of aqueous 2N NaOH and the mixture was extracted with 4×25 ml of ethyl acetate. The combined organic phases were washed with 3×25 ml of aqueous 2N NaOH, 50 ml of brine, dried over MgSO4, and evaporared in vacuo. The residue was purified by flash column chromatography on silica gel eluting with hexanes:ethyl acetate (9:1) and (95:5). 0.650 g of the title compound were obtained; 1H NMR (CDCl3): δ=11.52 (s, 1H), 8.32 to 8.39 (m, 2H), 7.72 to 7.86 (m, 2H), 7.13 to 7.42 (m, 5H), 4.31 (t, 2H), 1.69 (m, 2H), 1.37 (m, 2H), 0.93 (t, 3H).

reactant | 1-Chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | 5 mmol, 1.399 g | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)Cl | C14H14ClNO3
reactant | phenol | 2.86 g | C1(=CC=CC=C1)O | C6H6O
reactant | NaOH | 2N | [OH-].[Na+]
product | 4-Hydroxy-1-phenoxy-isoquinoline-3-carboxylic acid butyl ester | 0.650 g | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)OC1=CC=CC=C1 | C20H19NO4
